US08809342B2
To a solution of 4-bromo-2-methoxybenzonitrile (2.08 g, 9.81 mmol) and 4-(trifluoromethyl)phenylboronic acid (2.80 g, 14.7 mmol), potassium fluoride (1.71 g, 29.4 mmol) and Pd(PPh3)4 (1.13 g, 0.98 mmol) in toluene (40 mL) added water (10 mL). The mixture was stirred at 110° C. for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and concentrated under reduced pressure. Purification by silica gel chromatography gave 3-methoxy-4′-(trifluoromethyl)biphenyl-4-carbonitrile (2.66 g) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 7.67 (d, J=8.4 Hz, 2H), 7.63-7.56 (m, 3H), 7.15 (dd, J=8.0, 1.2 Hz, 1H), 7.06 (s, 1H), 3.95 (s, 3H).

reactant | 4-bromo-2-methoxybenzonitrile | 9.81 mmol, 2.08 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
reactant | 4-(trifluoromethyl)phenylboronic acid | 14.7 mmol, 2.80 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium fluoride | 29.4 mmol, 1.71 g | [F-].[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.98 mmol, 1.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 mL | O | H2O
product | 3-methoxy-4′-(trifluoromethyl)biphenyl-4-carbonitrile | 2.66 g | COC=1C=C(C=CC1C#N)C1=CC=C(C=C1)C(F)(F)F | C15H10F3NO
